US09388176B2
4-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-phenylbenzamide
To a mixture of 4-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (54 mg, 0.20 mmol), aniline (0.027 mL, 0.30 mmol), and N,N-diisopropylethylamine (0.174 mL, 1.0 mmol) in 1.5 mL DMF at room temperature was added HBTU (83 mg, 0.22 mmol). The reaction was stirred at room temperature for 1.5 hours, but also briefly warmed to approx. 60° C. three times during this time. At 2 hours additional 0.025 mL aniline was added and the reaction briefly warmed to approx. 60° C. three times. After 22 hours, the reaction was stored in the freezer for 3 days, then warmed to room temperature, 8 drops 1.0 M NaOH added, and the mixture stirred for 5 minutes. The reaction was partitioned between EtOAc and aqueous Na2CO3 solution, the EtOAc layer washed with H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting solid was triturated with EtOAc to give the title compound as an off-white solid (37 mg, 53%). 1H NMR (DMSO-d6) δ: 9.92 (s, 1H), 8.13 (s, 1H), 7.86-7.92 (m, 2H), 7.73-7.78 (m, 2H), 7.28-7.35 (m, 2H), 7.02-7.10 (m, 3H), 6.43 (s, 2H), 4.36 (s, 2H), 3.71 (t, J=6.0 Hz, 2H), 2.75 (t, J=5.9 Hz, 2H).

reactant | 4-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.20 mmol, 54 mg | NC=1N=CC2=C(N1)CCN(C2)C2=CC=C(C(=O)O)C=C2 | C14H14N4O2
reactant | aniline | 0.30 mmol, 0.027 mL | NC1=CC=CC=C1 | C6H7N
reactant | N,N-diisopropylethylamine | 1.0 mmol, 0.174 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.22 mmol, 83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | aniline | 0.025 mL | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | NaOH | 1.0 M, 8 drops | [OH-].[Na+]
product | 4-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-phenylbenzamide | 37 mg, 53% | NC=1N=CC2=C(N1)CCN(C2)C2=CC=C(C(=O)NC1=CC=CC=C1)C=C2 | C20H19N5O
